US06184225B2
4-Chloro-6,7-dimethoxyquinazoline hydrochloride (300 mg, 1.15 mmol), (prepared as described for the starting material in Example 1 but without the aqueous work up), and 2,4-difluoro-5-hydroxyaniline (184 mg, 0.90 mmol) in isopropanol (10 ml) were heated at reflux for 2 hours. The reaction mixture was then allowed to cool, the precipitated product collected by filtration, washed with isopropanol and dried to give 4-(2,4-difluoro-5-hydroxyanilino)-6,7-dimethoxyquinazoline hydrochloride (250 mg, 65%)

reactant | 4-Chloro-6,7-dimethoxyquinazoline hydrochloride | 1.15 mmol, 300 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 2,4-difluoro-5-hydroxyaniline | 0.90 mmol, 184 mg | FC1=C(N)C=C(C(=C1)F)O | C6H5F2NO
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-(2,4-difluoro-5-hydroxyanilino)-6,7-dimethoxyquinazoline hydrochloride | 250 mg, 65% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C(C(=C1)F)O | InChI=1S/C16H13F2N3O3.ClH/c1-23-14-3-8-11(6-15(14)24-2)19-7-20-16(8)21-12-5-13(22)10(18)4-9(12)17;/h3-7,22H,1-2H3,(H,19,20,21);1H
